US07538239B2
2-(2,5-dimethylcyclopenta-1,4-dienyl)phenyl(trimethylacetyl)amine
0.130 g (1.29 mmol) of triethylamine and 0.155 g (1.29 mmol) of pivaloyl chloride were added to 0.263 g (1.42 mmol) of 2-(2,5-dimethylcyclopenta-1,4-dienyl)phenylamine solution melted in 10 mL of MC solvent, and then reacted at room temperature for 1 hour. 5 mL of 2N HCl was added to the reaction product and strongly stirred for a few minutes. The organic layer was neutralized using 5 mL of NaHCO3, and the product was filtered using a column chromatography with a hexane/ethyl acetate (v/v, 10:1) solvent. The refined product was dried in vacuum to remove the solvent therein, thereby obtaining while solid (0.355 g, 93%).

reactant | triethylamine | 1.29 mmol, 0.130 g | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 1.29 mmol, 0.155 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | 2-(2,5-dimethylcyclopenta-1,4-dienyl)phenylamine | 1.42 mmol, 0.263 g | CC1=C(C(=CC1)C)C1=C(C=CC=C1)N | C13H15N
reactant | HCl | 2N, 5 mL | Cl | ClH
reactant | NaHCO3 | 5 mL | C(=O)(O)[O-].[Na+]
product | 2-(2,5-dimethylcyclopenta-1,4-dienyl)phenyl(trimethylacetyl)amine | 0.355 g, 93% | CC1=C(C(=CC1)C)C1=C(C=CC=C1)NC(C(C)(C)C)=O | C18H23NO
